* C:\Users\pilif\OneDrive\_website\joe-can-help\docs\assets\models\tps40200_part2_uvlo.sxsch
*#SIMETRIX
.node_map VDD 8
.node_map Run 9
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 1m 0


.var V_UVLO_ON = 4.3
.var V_UVLO_OFF = 4.1
.var V_UVLO_HYS = {V_UVLO_ON - V_UVLO_OFF}

.PRINT V(#VDD)
.GRAPH :#VDD curveLabel= VDD nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#Run)
.GRAPH :#Run curveLabel= Run nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
X$U1 9 7 0 8 6 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD={V_UVLO_HYS} VOL=0 VOH=5 DELAY=2p
V1 6 0 {(V_UVLO_ON + V_UVLO_OFF) / 2}
X$V2 8 0 TRI_SOURCE vars: _V1=0 _V2=5 _FREQ=1k _DELAY=0 _DRATIOx100=50 _T_RISE=500u _T_FALL=500u _DAMP_COEF=0 _PWIDTH=0 _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0 _SHOWPARAMS=0
.end
